US06417212B1
A mixture of 2-(2-benzyl-4-hydroxy-phenoxy)-2-methyl-propionic acid ethyl ester (1.14 g, 3.63 mmol) (see Ex. 35, part C), toluene-4-sulfonic acid 2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethyl ester (4.71 mmol) (see Ex. 1, part F), and Cs2CO3 (1.77 g, 5.45 mmol) was heated at 55° C. in DMF (10 mL) for 72 h. The reaction mixture cooled and partitioned between ethyl acetate (30 mL) and H2O (10 mL). The organic layer was washed with brine (15 mL). The organic layer was dried (Na2SO4) and concentrated. The crude product was purified by flash chromatography using hexanes:ethyl acetate (8:1) to give 2-{4-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)-ethoxy]-2-cyclohexylmethyl-phenoxy}-2-methyl-propionic acid ethyl ester: MS (ES) m/e 582.3 (M+1).

reactant | 2-(2-benzyl-4-hydroxy-phenoxy)-2-methyl-propionic acid ethyl ester | 3.63 mmol, 1.14 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)CC1=CC=CC=C1)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethyl ester | 4.71 mmol | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C25H23NO4S
reactant | Cs2CO3 | 5.45 mmol, 1.77 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-{4-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)-ethoxy]-2-cyclohexylmethyl-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1)CC1CCCCC1)=O | C37H43NO5
